US05688946
In a manner analogous to the procedure described above for the preparation of (2RS,3R,4S)-4-amino-5-cyclohexyl-1,2,3-pentanetriol, by reacting tert-butyl (4S,5R)-4-(cyclohexylmethyl)-5-[(S)-cyclopropylazidomethyl]-2,2-dimethyl-3-oxazolidinecarboxylate there is obtained (1S,2R,3S)-3-amino-1-azido-4-cyclohexyl-1-cyclopropyl-2-butanol as an oil, MS: 253 (M+H)+.

reactant | (2RS,3R,4S)-4-amino-5-cyclohexyl-1,2,3-pentanetriol | N[C@H]([C@H](C(CO)O)O)CC1CCCCC1 | C11H23NO3
reactant | tert-butyl (4S,5R)-4-(cyclohexylmethyl)-5-[(S)-cyclopropylazidomethyl]-2,2-dimethyl-3-oxazolidinecarboxylate | C1(CCCCC1)C[C@@H]1N(C(O[C@H]1[C@@H](N=[N+]=[N-])C1CC1)(C)C)C(=O)OC(C)(C)C | C21H36N4O3
product | (1S,2R,3S)-3-amino-1-azido-4-cyclohexyl-1-cyclopropyl-2-butanol | N[C@H]([C@H]([C@H](C1CC1)N=[N+]=[N-])O)CC1CCCCC1 | C13H24N4O
